US07049438B2
A solution of 3,5-difluoroaniline (10.8 g) in a mixture of 12N aqueous hydrochloric acid solution (7.5 ml) and water (90 ml) was added to a stirred mixture of chloral hydrate (9.2 ml), sodium sulphate decahydrate (240 g) and water (210 ml). A solution of hydroxylamine hydrochloride (18.6 g) in water (90 ml) was then added and the mixture was heated to 120° C. for 45 minutes. The mixture was cooled to ambient temperature and the precipitate was isolated and dried under vacuum. The material so obtained was added to concentrated sulphuric acid (60 ml) and the mixture was stirred and heated to 80–90° C. for 10 minutes. The mixture was cooled to ambient temperature and poured onto a 1:1 mixture of ice and water (600 ml). The precipitate was isolated, washed with water and dried under vacuum at 50° C. to give 4,6-difluoro-2,3-dioxoindoline (14 g); NMR Spectrum: (DMSOd6) 6.61 (m, 1H), 6.9 (m, 1H).

reactant | 3,5-difluoroaniline | 10.8 g | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | chloral hydrate | 9.2 ml | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulphate decahydrate | 240 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 18.6 g | Cl.NO
reactant | sulphuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
solvent | hydrochloric acid | 12N, 7.5 ml | Cl | ClH
solvent | water | 90 ml | O | H2O
solvent | water | 90 ml | O | H2O
solvent | water | 600 ml | O | H2O
solvent | water | 210 ml | O | H2O
product | 4,6-difluoro-2,3-dioxoindoline | 14 g | FC1=C2C(C(NC2=CC(=C1)F)=O)=O | C8H3F2NO2
